US07037925B2
4-(3-Aminocarbonyl-2-methylanilino)-6,7-dimethoxy-3-quinolinecarboxamide
A mixture of 4-chloro-6,7-dimethoxy-3-quinolinecarboxamide (0.046 g, 0.17 mmol), 3-amino 2-metylbenzamide (0.036 g, 0.24 mmol) and acetic acid (40 μl) in DMF (0.8 ml) was heated at 100° C. for 18 h. After cooling the reaction mixture was diluted with water (20 ml) and made alkaline with 1 M NaOH. The precipitate was filtered of, rinsed with water and dried to give the title compound (41 mg, 61%).

reactant | 4-chloro-6,7-dimethoxy-3-quinolinecarboxamide | 0.17 mmol, 0.046 g | ClC1=C(C=NC2=CC(=C(C=C12)OC)OC)C(=O)N | C12H11ClN2O3
reactant | 3-amino 2-metylbenzamide | 0.24 mmol, 0.036 g | NC=1C(=C(C(=O)N)C=CC1)C | C8H10N2O
reactant | acetic acid | 40 μl | C(C)(=O)O | C2H4O2
reactant | NaOH | 1 M | [OH-].[Na+]
solvent | DMF | 0.8 ml | CN(C)C=O | C3H7NO
solvent | water | 20 ml | O | H2O
product | 4-(3-Aminocarbonyl-2-methylanilino)-6,7-dimethoxy-3-quinolinecarboxamide | 41 mg, 61% | NC(=O)C=1C(=C(NC2=C(C=NC3=CC(=C(C=C23)OC)OC)C(=O)N)C=CC1)C | C20H20N4O4
